US08530467B2
Part C. Preparation of (S)-methyl 2-((2-(2,6-difluoro-4-(methylcarbamoyl)phenyl)-5-methyl-1H-benzo[d]imidazol-1-yl)methyl)morpholine-4-carboxylate
A mixture of (S)-tert-butyl 2-((2-(2,6-difluoro-4-(methylcarbamoyl)phenyl)-5-methyl-1H-benzo[d]imidazol-1-yl)methyl)morpholine-4-carboxylate (58.3 g, 116.5 mmol) and MeOH (65 mL) was stirred at 20° C. as HCl (4.0N aqueous) (300 mL, 1200 mmol) was added. The resulting mixture was stirred for 6 hr, and then dichloromethane (300 mL) was added. The phases were mixed for 5 min and then allowed to settle. The organic phase was removed, and dichloromethane (600 mL) was added. The mixture was stirred at 15° C. as an aqueous solution of 25% NaOH (300 mL) was added over 20 min while maintaining the temperature at less than 25° C. The phases were allowed to settle, and the aqueous phase was removed and extracted with dichloromethane (300 mL). The combined organic phases were concentrated under reduced pressure to a volume of 750 mL. The resulting mixture was cooled to 5° C., and diisopropylethylamine (20.3 mL, 116.38 mmol) was added. Next, methyl chloroformate (9.9 mL, 128.02 mmol) was added over 10 min, keeping the temperature at less than 15° C. After 20 min, the mixture was quenched by adding water (200 mL). The mixture was stirred at 20° C. The phases were then allowed to settle, and the aqueous layer was removed. The organic phase was concentrated under reduced pressure, and MeOH (400 mL) was added. The mixture was stirred at 40° C. while water (500 mL) was added until a turbid mixture was formed. The mixture was heated to 60° C. and then cooled to 43° C., at which point seeds from the title product were added. The temperature was then reduced to 36° C., and the mixture was stirred for 16 hr. The temperature was then reduced to 20° C., and stirring was continued for an additional 16 hr. The solids were recovered by filtration, washed with a 1:9 solution of MeOH/water (50 mL), and dried in the mechanical vacuum at 45° C. for 16 hr to provide (S)-methyl 2-((2-(2,6-difluoro-4-(methylcarbamoyl)phenyl)-5-methyl-1H-benzo[d]imidazol-1-yl)methyl)morpholine-4-carboxylate (33.9 g, 63%). 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 2.47 (br. s., 1H), 2.55 (s, 3H), 2.79 (br. s., 1H), 3.02 (d, J=4.65 Hz, 3H), 3.25 (br. s., 1H), 3.53-3.86 (m, 6H), 3.87-4.15 (m, 3H), 7.24 (d, J=8.12 Hz, 1H), 7.39 (d, J=8.20 Hz, 1H), 7.46 (d, J=8.51 Hz, 2H), 7.65 (s, 1H), 8.73 (br. s., 1 H). The product was analyzed on analytical HPLC MS using a high pH gradient method (mobile phase: 0-95% B; A: H2O with 10 mM NH4OAc in 5% CH3CN, B: CH3CN; 9 min run; X-Bridge C18; column size: 3.00×100 mm; and particle size: 3.5 μm). Rt=4.03 min. MS (ESI) m/z calcd for C24H24F2N4O4 459.48 [M+H]+. found 459.2.

reactant | (S)-tert-butyl 2-((2-(2,6-difluoro-4-(methylcarbamoyl)phenyl)-5-methyl-1H-benzo[d]imidazol-1-yl)methyl)morpholine-4-carboxylate | 116.5 mmol, 58.3 g | FC1=C(C(=CC(=C1)C(NC)=O)F)C1=NC2=C(N1C[C@H]1CN(CCO1)C(=O)OC(C)(C)C)C=CC(=C2)C | C26H30F2N4O4
reactant | HCl | 1200 mmol, 4.0N, 300 mL | Cl | ClH
reactant | diisopropylethylamine | 116.38 mmol, 20.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl chloroformate | 128.02 mmol, 9.9 mL | ClC(=O)OC | C2H3ClO2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | MeOH | 65 mL | CO | CH4O
product | (S)-methyl 2-((2-(2,6-difluoro-4-(methylcarbamoyl)phenyl)-5-methyl-1H-benzo[d]imidazol-1-yl)methyl)morpholine-4-carboxylate | FC1=C(C(=CC(=C1)C(NC)=O)F)C1=NC2=C(N1C[C@H]1CN(CCO1)C(=O)OC)C=CC(=C2)C | C23H24F2N4O4
